US06387919B1
A solution of 0.62 g (3.0 mmol) of 5-phenyl-1,3-dihydro-indol-2-one (Hewawasam and Meanwell, Tetrahedron Letters 1994, 35, 7303-6) in 10 mL of DMF was treated with 0.90 g (4.5 mmol) of DMF di-tert-butyl acetal for 2 h at rt. DMF was removed under high vaccum, and the residue was subjected to chromatography on silica gel, eluting with hexane:EtOAc (1:1), to yield 0.09 g (10%) of 3-tert-butoxymethylene-5-phenyl-1,3-dihydro-indol-2-one: 1H NMR (DMSO-d6): δ 1.46 (s, 9H), 6.85 (d, J=8.0 Hz, 1H), 7.27 (t, J=7.3 Hz, 1H), 7.34-7.39 (m, 1H), 7.41 (d, J=7.5 Hz, 2H), 7.53 (d, J=7.5 Hz, 2H), 7.72 (s, 1H), 7.83 (s, 1H), 10.28 (s, 1H); APCI+MS m/z 316 (M+23)+. Further elution with EtOAc:MeOH (98:2) gave 0.11 g (14%) of 3-dimethylaminomethylene-5-phenyl-1,3-dihydro-indol-2-one.

reactant | 5-phenyl-1,3-dihydro-indol-2-one | 3.0 mmol, 0.62 g | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxymethylene-5-phenyl-1,3-dihydro-indol-2-one | 0.09 g, 10% | C(C)(C)(C)OC=C1C(NC2=CC=C(C=C12)C1=CC=CC=C1)=O | C19H19NO2
